US08633207B2
To a suspension of lithium aluminum hydride (LAH, 3 equiv) in THF at 0° C. is slowly added a suspension of methyl 2-(difluoro(5-fluoropyridin-2-yl)methyl)-4-(5-methyl-1H-pyrazol-3-ylamino)quinazoline-7-carboxylate (1 equiv) in THF. The mixture is stirred at 0° C. for 0.5 h and then at rt for 4 h. To the stirring mixture at 0° C. are added successively in dropwise fashion water (1 mL per g of LAH), 15% NaOH (1 mL per g of LAH), and water (3 mL per gram of LAH) and the mixture is stirred at rt overnight. The mixture is filtered through Celite washing with 20% MeOH/DCM (500 mL), and the filtrate is concentrated under reduced pressure. The residue is purified by reverse phase HPLC to afford (2-(difluoro(5-fluoropyridin-2-yl)methyl)-4-(5-methyl-1H-pyrazol-3-ylamino)quinazolin-7-yl)methanol.

reactant | lithium aluminum hydride | 3 equiv | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 2-(difluoro(5-fluoropyridin-2-yl)methyl)-4-(5-methyl-1H-pyrazol-3-ylamino)quinazoline-7-carboxylate | 1 equiv | FC(C1=NC2=CC(=CC=C2C(=N1)NC1=NNC(=C1)C)C(=O)OC)(C1=NC=C(C=C1)F)F | C20H15F3N6O2
reactant | water | O | H2O
reactant | NaOH | [OH-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
product | (2-(difluoro(5-fluoropyridin-2-yl)methyl)-4-(5-methyl-1H-pyrazol-3-ylamino)quinazolin-7-yl)methanol | FC(C1=NC2=CC(=CC=C2C(=N1)NC1=NNC(=C1)C)CO)(C1=NC=C(C=C1)F)F | C19H15F3N6O
